US07057054B2
250 ml of anhydrous THF was added into 24 g (88 mmol) of 3,5-dibromo-2-methoxythiophene and was cooled to be −78° C. with dry ice-methanol. Then, 56 ml (92 mmol) of a solution containing 15% n-butylithium hexane was slowly dripped into it. After being stirred for 1 hour, 32 ml (123 mmol) of tri-n-butyl borate was slowly dripped into it and stirred for 2 hours. After being returned to a room temperature, 90 ml of 20 wt % Na2CO3, 18 g (88 mmol) of iodobenzene, and 4.4 g (0.36 mmol) of Pd(Ph3P)4 were added to the solution and refluxed for 5 hours at 70° C. The reaction solution was extracted with ether, washed with a salt solution, and dried with addition of magnesium sulfate. The dried extract was condensed after removing magnesium sulfate by filtration. By developing the product with hexane on a silica gel column, a colorless solid 3-bromo-2-methoxy-5-phenylthiophene was obtained (Rf=0.35). The yield was 15 g in weight and 63% in percentage.

reactant | 3,5-dibromo-2-methoxythiophene | 88 mmol, 24 g | BrC1=C(SC(=C1)Br)OC | C5H4Br2OS
reactant | dry ice methanol | C(=O)=O.CO
reactant | tri-n-butyl borate | 123 mmol, 32 ml | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | iodobenzene | 88 mmol, 18 g | IC1=CC=CC=C1 | C6H5I
catalyst | Pd(Ph3P)4 | 0.36 mmol, 4.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | hexane | CCCCCC | C6H14
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 3-bromo-2-methoxy-5-phenylthiophene | BrC1=C(SC(=C1)C1=CC=CC=C1)OC | C11H9BrOS
